Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"When can I go home?"

 
Major Surgical or Invasive Procedure:
None 
 
History of Present Illness:
Briefly, per OMR review and as
verified with patient as appropriate, this is an ___ year old 
domiciled employed man with no PPH or PMH who presented to ED on
___ with with self-inflicted, superficial lacerations with
exacto knife to his arms in the setting of having an argument
with his girlfriend. 

Per Dr. ___: 
"For the past three days he has been staying with his girlfriend
at ___ and states their relationship has been 
___.
He has been much more irritable with her lately. He cannot
entirely explain what triggered him to cut his wrists
superficially with an exacto knife, though there are many
lacerations (approximately 20 on each arm). He stated many of 
the
girls at the ___ tried to stop him from walking out the
building after they saw his wounds. He does not endorse his
self-injurious behaviour as a suicide attempt, rather an
expression of his frustration.

He endorses becoming somewhat depressed approximately ___ months
ago after taking MDMA. He attributes the serotonergic properties
of the drug to have since caused much greater mood lability. He
endorses some paranoia, though when clarified, he refers to
becoming suspicious that his girlfriend is partying at ___
with other men. Over the past month he states he sleeps between 
4
and 9 hours a night, has been eating about the same as usual, 
and
reports low energy with an overall labile mood. He doesn't
participate in enjoyable activities much anymore but attributes
this to being busy with his ___ work (though earlier he
stated work was slow). He denies history of manic symptoms,
hallucinatory content, delusional content, obsessional or
compulsive symptoms, nor panic attacks.

He cannot explain his positive opioid urine toxicology. He 
states
he is open about discussing his past MDMA use though this
perplexes him. He postulates eating poppy seeds on bagels
recently may have caused the positive screen."

Dr. ___ note: ___ has known pt for almost a
year, states that he knows him fairly well and they spend a fair
amount of time together. States that when he first met pt, he 
was
very energetic, optimistic about his future. When obstacles 
would
come up in life or he would get stressed, he would cope very 
well
and remain positive. ___ states that lately, pt has been 
getting
very overwhelmed and stressed out, worried about money, school, 
-
has been very doubtful of himself. Last month, ___ states pt
"gave up" and said he was moving back to ___ (he is not sure
if pt actually did move or not), and then last week, called ___
and ___ "I'm back in ___." ___ states that pt has never
expressed any SI or desire to hurt himself. He has been having
some "mood swings" and has been "craving pills". ___ states 
that
pt has been getting into partying a lot more, taking "E", is not
sure of any other substances that he is taking."

Per Dr. ___ note on ___, verified with patient: "He
relates that he came to visit his on and off again significant
other at her school, stayed with her in her dorm, and over the
past ___ days they were having increasing conflict with each
other, he was feeling frustrated because she did not want to
spend time with him but he felt she was not direct with him 
about
her feelings, he felt increasingly angry and yesterday, he asked
her dorm mate for an Exacto knife which he used to cut the 
dorsal
aspect of both forearms (about ___ linear superficial
lacerations b/l, no need for sutures, not painful). He
consistently denies that he had intent to end his life, rather 
it
was a means to relieve his inner distress (he has a hard time
articulating this, states "I just felt not good...angry")  

He also relates feeling that he is "going downhill" over the 
past
two months, stressors include moving away from family in ___,
feeling pressure to perform/work from family, working full time
to support himself, having no health insurance. He ruminates
about "this is all costing me money, the ambulance, being here
(in the ED), I'm sorry you have to waste your time talking to
me." He also attributes his worsened mood to taking "too much
ecstasy" about two months ago, he has not "felt  right since
then, like I feel bipolar, like I keep thinking about things I
shouldn't think about or really care about, you know?"

Relevant course of events leading up to inpatient psychiatric
hospitalization after ED admission:
-No behavioral issues requiring restraint. Superficial
lacerations did not require repair. Given tetanus update. 

Patient appeared guarded when meeting with inpatient team. He
denied neurovegetative symptoms of depression, mania, psychosis,
or delusions. When asked about his substance use history 
however,
he did mention taking "3 pills" presumed to be "MDMA" after 
which
he described feeling "bipolar," alternating from feeling 
euphoric
to irritable and argumentative with the "littlest things" with
friends. He also vaguely described visual changes including
blurred vision and possible visual hallucinations involving
seeing figures although adamantly denied AVH when explicitly
asked.    

 
Past Medical History:
remote history of asthma
 
Social History:
___
Family History:
Patient denied
 
Physical Exam:
General - In NAD, WN/WD, appears stated age
Skin - no rashes, warm and dry
HEENT - Head NC/AT, PERRLA, EOMI, oropharynx clear without
erythema
Neck and Back - Trachea midline, neck supple, no lymphadenopathy
or thyromegaly
Lungs - Clear to auscultation bilaterally. No crackles, wheezes,
or rhales.
CV - Regular rate and rhythm, S1 & S2, without
murmurs/rubs/gallops.
Abdomen - soft, non-tender, non-distended, positive bowel sounds
in all 4 quadrants; no masses or organomegaly
Extremities - MAEW. No clubbing, edema, or cyanosis. Multiple
superficial scratch marks on dorsal surface of forearms 
appearing
dry and healing well

Neurological -
Cranial Nerves -
       I: Not Tested
       II: Pupils equally round and reactive to light
bilaterally. Visual fields full to confrontation.
      III, IV, VI: EOM intact bilaterally without nystagmus
      V, VII: Facial sensation and movements intact and 
symmetric
      VIII: Hearing intact and symmetric
      IX, X: Palate raised symmetrically
      XI: Sternocleidomastoid and trapezius normal bilaterally
      XII: Tongue protruded midline and without fasciculations
Motor: Normal bulk and tone bilaterally, ___ strength 
throughout.
No gross focal motor or sensory deficits. No abnormal movements.
Sensation: intact and symmetric to light touch in UE's and ___: Intact on Finger-nose-finger
Gait/Romberg: Steady gait. No truncal ataxia. Normal stance and
posture.

 
Pertinent Results:
DATA:
Labs (Most recently on ___:
-BMP:
Na 137
K 3.7
Cl 100
HCO3 23
AnGap 18
Cr 1.0
BUN 14
Glucose 103

-CBC:
WBC 8.6
Hgb 14.4
Hct 42.0
MCV: 87
RDW: 12.1
Plt: 281

-UA: WNL
-UTox: Pos for opiates
-Serum tox: neg
 
Brief Hospital Course:
SAFETY: The pt. was placed on 15 minute checks on admission and 
remained here on that level of observation throughout. He was 
unit-restricted. There were no acute safety issues during this 
hospitalization.

LEGAL: ___
PSYCHIATRIC:
Patient was admitted to inpatient psychiatry for diagnostic 
clarification, medication management, psychotherapeutic 
intervention and stabilization, and collaboration with 
outpatient providers. On initial interview he endorsed cutting 
himself in the context of interpersonal conflict with girlfriend 
and ongoing psychosocial stressors (finances, employment, family 
support). He exhibited depressive symptoms per history and an 
emotionally unstable personality with
self-injurious behavior and dysphoric/irritable affect on MSE. 
He was, however, behaviorally without issues and medication 
compliant. Patient denied thoughts of self harm while on unit 
and at time of discharge. He did, however, endorse feeling more 
depressed since he took MDMA ___ months ago. He remained elusive 
when asked to
explain his urine toxicology for opiates, first stating the 
source being poppy seeds from food but then stating he took two 
medications from his girlfriend for his back pain. He has been 
guarded although somewhat cooperative with the team but became 
amenable to collateral and aftercare planning when his mother 
visited the unit. 
Diagnostically, adjustment disorder w/ disturbance of emotion 
and conduct, with
non suicidal self injury vs. MDMA-induced depressive disorder, 
Without use disorder were considered with considered rule outs 
for bipolar disorder or other personality disorder. 
Unfortunately, patient's stay on unit was not at sufficient 
length for full evaluation with ___ testing as discharge 
planning was finalized quickly after mother's visit. Patient 
tolerated lorazepam 1mg PO BID PRN anxiety well as it was 
continued since being started in the ED. This medication was not 
continued as patient and team agreed that full outpatient follow 
up and evaluation to be completed when back home in ___. 

GENERAL MEDICAL CONDITIONS:
-None 

PSYCHOSOCIAL:
#) GROUPS/MILIEU/THERAPY:
O.T. team met with patient 1:1 to encourage participation in 
groups to explore coping
strategies and leisure interests. Patient declined participation 
in groups and stated that he has minimal interest in groups and 
felt as if he does not need to be hospitalized. Patient did not 
make progress towards the goals listed above.

- Overall, patient with minimal group participation and 
persistent focus on discharge home. 

#) COLLATERAL CONTACTS:
Friend, ___ in ___ ___
___ (mother) ___  

#) FAMILY INVOLVEMENT:
Patient's mother, ___, was notified of patient's 
hospitalization and arrived by plane to visit patient. She 
remained in communication with team prior to discharge planning. 
Family meeting on ___ with SW: Meeting focused on patient's 
admission, patient's current progress and treatment 
recommendations. Mother was concerned about
patient's pattern of impulsivity and lack of planning around his 
move to ___ last ___. She states patient was doing well 
when living with his uncle but with less structure, was unable 
to function. Patient feels it's important to prove to himself 
and family that he's capable of making decisions. We talked 
about the
importance of learning this process and the ups and downs that 
comes with making ones first steps towards independence. 
Patient's inability to focus came up several times during 
meeting, Both 20 was working and earlier when he was at school. 
Patient had a bad experience when he was evaluated hey young age 
and had a bad reaction to medication. It was suggested that he 
be reevaluated to see if there're any other options. Therapist 
appointment was set up for patient in his home in ___, 
___ which he and his mother were agreeable to. 

#) INTERVENTIONS:
Psychopharmacologically: Ativan 
Groups/therapy/milieu
Aftercare planning 

INFORMED CONSENT:

Ativan:
Team discussed the indications for, intended benefits of, and 
possible side effects and risks of this medication, and risks 
and benefits of possible alternatives, including not taking the 
medication, with this patient.  We discussed the patient's right 
to decide whether to take this medication as well as the 
importance of the patient's actively participating in the 
treatment and discussing any questions about medications with 
the treatment team, and we answered the patient's questions.  
The
patient appeared able to understand and consented to begin the 
medication.

RISK ASSESSMENT:

#) Risk Factors:
- Lack of outpatient treaters
- History of self-injurious behavior 
- Substance misuse history 
- Impulsivity and poor self control
- Acutely stressful events/Recent losses - Personal
- Young male adult, unmarried

#) Modifiable Risk Factors:
- Outpatient therapy/psych f/u: Aftercare planning
- Social support: collateral and family meeting if possible
- Coping, reality testing ability, and problem-solving skills:
Encourage group attendance

#) Protective Factors:
None 

PROGNOSIS:
Fair - Mr. ___ is an ___ year old man without a psychiatric 
or significant medical history who presented to the emergency 
room by ambulance with self inflicted superficial lacerations. 
He endorsed cutting himself in the context of interpersonal 
conflict with girlfriend and ongoing psychosocial stressors 
(finances, employment, family support) and endorsed depressive 
symptoms per history and an emotionally unstable personality 
with self-injurious behavior and dysphoric/irritable affect. He 
denied  thoughts of self harm during his hospitalization 
although with concerns of poor coping skills leading to 
non-suicidal self-injurious behavior. With this being aggravated 
by patient taking MDMA ___ months ago, complete cessation from 
illicits was strongly enforced and patient was educated about 
this. He was guarded and somewhat cooperative, showing limited 
insight into his actions likely due to his immaturity. Mr. 
___ do well with good social support as seen by his 
mother arriving to take him home but also with prompt evaluation 
for further diagnostic clarification, therapy, and continued 
follow up and medication adherence (as appropriate).  

 
Medications on Admission:
1. This patient is not taking any preadmission medications

 
Discharge Medications:
None
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Unspecified Mood Disorder

 
Discharge Condition:
Mental Status: 
Clear and coherent  

Level of Consciousness: 
Alert and interactive  

Activity Status: 
Ambulatory - Independent  

 
Discharge Instructions:
You were hospitalized at ___ for erratic and self-injurious 
behavior.  We adjusted your medications, and you are now ready 
for discharge and continued treatment with follow up as listed 
below: 

-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

 
Followup Instructions:
___